US07034098B2
Preparation can be carried out analogously to Example 1 using 4.00 g (10.84 mmol) 6-chlorohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate and 9.75 g (65.05 mmol) sodium iodide, to yield 6-iodohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate.

reactant | 6-chlorohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate | 10.84 mmol, 4.00 g | C(CCC)OC1=C(C=C(C=C1)/C=C/C(=O)OCCCCCCCl)OC | C20H29ClO4
reactant | sodium iodide | 65.05 mmol, 9.75 g | [I-].[Na+]
product | 6-iodohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate | C(CCC)OC1=C(C=C(C=C1)/C=C/C(=O)OCCCCCCI)OC | C20H29IO4
